US07776864B2
Step 4: 2,7-Dimethyl-6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine
0.49 ml triethylamine is added to a solution of 0.55 g 2-(5-piperidin-4H[1,2,4]triazol-3-yl)-pyridine*2HCl (prepared from tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate and pyridine-2-carbonitrile according to a procedure described in U.S. Pat. No. 4,011,218 or WO2005100344) in 15 ml methanol. To this solution a solution of 0.50 g 4-(2,7-dimethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde in 15 ml DMF is added, followed by 0.23 ml glacial acetic acid and 0.64 g NaBH(OAc)3. The resulting mixture is stirred at room temperature. Additional portions of 2 equivalents NaBH(OAc)3 are added after 1, 2, 3, 5 and 7 h. The solvent is removed by evaporation after 20 h and the residue is purified by chromatography on silica gel (dichloromethane/[dichloromethane+7M NH3 in methanol]) to yield the desired compound.

reactant | tert-butyl 4-(hydrazinocarbonyl)piperidine-1-carboxylate | N(N)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | pyridine-2-carbonitrile | N1=C(C=CC=C1)C#N | C6H4N2
reactant | 4-(2,7-dimethyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.50 g | CC1=NN2C(N=C(C(=C2C)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C20H16N4O
reactant | NaBH(OAc)3 | 0.64 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaBH(OAc)3 | 2 equivalents | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methanol | 15 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | acetic acid | 0.23 ml | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.49 ml | C(C)N(CC)CC | C6H15N
product | 2,7-Dimethyl-6-phenyl-5-(4-{[4-(5-pyridin-2-yl-1H-1,2,4-triazol-3-yl)piperidin-1-yl]methyl}phenyl)[1,2,4]triazolo[1,5-a]pyrimidine | CC1=NN2C(N=C(C(=C2C)C2=CC=CC=C2)C2=CC=C(C=C2)CN2CCC(CC2)C2=NNC(=N2)C2=NC=CC=C2)=N1 | C32H31N9
